US03956374
Step A: 3,6-Diphenyl-5-hexen-2-one
Sodium hydride (10.5 g., 0.25 mole, oil dispersion) is suspended in glyme (200 ml.) and phenyl acetone (33.5 g., 0.25 mole) in glyme (25 ml.) is added dropwise with stirring. After complete addition, the mixture is heated to reflux for 0.5 hours. The mixture is cooled in a cold water bath and a solution of cinnamyl chloride (38 g., 0.25 mole) in glyme (25 ml.) is added dropwise. When addition is complete, the mixture is refluxed for 5 hours then allowed to cool. After filtration of inorganic salts and removal of solvent from the filtrate, vacuum distillation provides 44 g., b.p. 128°-134°/0.07-0.1 mm.

reactant | Sodium hydride | 0.25 mole, 10.5 g | [H-].[Na+]
reactant | phenyl acetone | 0.25 mole, 33.5 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | cinnamyl chloride | 0.25 mole, 38 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
solvent | glyme | 200 ml | C(OC)COC | C4H10O2
solvent | glyme | 25 ml | C(OC)COC | C4H10O2
solvent | glyme | 25 ml | C(OC)COC | C4H10O2
product | 3,6-Diphenyl-5-hexen-2-one | C1(=CC=CC=C1)C(C(C)=O)CC=CC1=CC=CC=C1 | C18H18O
